US07749992B2
To preheated polyphosphoric acid (PPA, 220 g) at 70-80° C. was added 1-(Toluene-4-sulfonyl)-1,2,3,4-tetrahydro-benzo[b]azepin-5-one (50.0 g, 0.16 mol). The mixture was stirred for 3.0 h at the same temperature and then poured into ice water. After the pH was adjusted to about 8-9 by adding aq NaOH, the mixture was extracted with ethyl acetate. The organic layer was separated, dried over MgSO4, and concentrated. The residue was purified by silica gel column chromatography (eluent, 3:1 n-hexanes:ethyl acetate) to give 1,2,3,4-Tetrahydro-benzo[b]azepin-5-one (22 g).

reactant | 1-(Toluene-4-sulfonyl)-1,2,3,4-tetrahydro-benzo[b]azepin-5-one | 0.16 mol, 50.0 g | C1(=CC=C(C=C1)S(=O)(=O)N1C2=C(C(CCC1)=O)C=CC=C2)C | C17H17NO3S
reactant | NaOH | [OH-].[Na+]
product | 1,2,3,4-Tetrahydro-benzo[b]azepin-5-one | 22 g | N1C2=C(C(CCC1)=O)C=CC=C2 | C10H11NO
